US07902252B2
2.29. Synthesis of 4-(3-phenylpropyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (36)
The title compound was synthesized from methyl 4-(3-phenylpropyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (210 mg, 0.74 mmol) and lithium hydroxide monohydrate (124 mg, 2.96 mmol) according to General Procedure 7. Silica gel was added, the solvent stripped off and the silica gel-imbedded material was purified by flash chromatography (0-80% EtOAc/Heptane) to give 4-(3-phenylpropyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (36) as a light brown solid (113.8 mg, 57%). 1H NMR (400 MHz, METHANOL-d4) δ ppm 1.42-1.59 (m, 2H), 1.64-1.84 (m, 2H), 1.90-2.01 (m, 1H), 2.52-2.75 (m, 5H), 2.88-2.97 (m, 1H), 6.61 (s, 1H), 7.10-7.20 (m, 3H), 7.21-7.28 (m, 2H); LCMS-MS (ESI+) 270.1 (M+H); HPLC (UV=100%), (ELSD=100%).

reactant | methyl 4-(3-phenylpropyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.74 mmol, 210 mg | C1(=CC=CC=C1)CCCC1CCC=2NC(=CC21)C(=O)OC | C18H21NO2
reactant | lithium hydroxide monohydrate | 2.96 mmol, 124 mg | O.[OH-].[Li+]
product | 4-(3-phenylpropyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 113.8 mg, 57% | C1(=CC=CC=C1)CCCC1CCC=2NC(=CC21)C(=O)O | C17H19NO2
